US07799822B2
Prepared using general procedure 27. A mixture of 4-bromo-N-(thiazol-2-yl)benzenesulfonamide (500 mg, 1.57 mmol), tert-butyl piperidin-4-ylcarbamate (314 mg, 1.57 mmol), Pd2(dba)3 (43 mg, 0.05 mmol), 2-(di-t-butylphosphino)biphenyl (56 mg, 0.19 mmol), NaOtBu (423 mg, 4.4 mmol) and toluene (4 mL) was stirred at 70° C. for 3 h. After allowing the mixture to cool to RT, H2O (50 mL) and EtOAc (50 mL) were added. After acidifying with a 1 M HCl solution to pH 4, the layers were separated, and the aqueous phase was extracted 3 times with CH2Cl2 (50 mL). The combined organic extracts were dried over MgSO4 and absorbed onto Celite. Purification via silica gel chromatography using 10% MeOH in CH2Cl2 gave tert-butyl-1-(4-(N-thiazol-2-ylsulfamoyl)phenyl)piperidin-4-ylcarbamate as an off-white foam (520 mg, 76%). LC/MS (10%-99% CH3CN (0.035% TFA)/H2O (0.05% TFA)), m/z: M+1 obs=439.5; tR=2.56 min.

reactant | 4-bromo-N-(thiazol-2-yl)benzenesulfonamide | 1.57 mmol, 500 mg | BrC1=CC=C(C=C1)S(=O)(=O)NC=1SC=CN1 | C9H7BrN2O2S2
reactant | tert-butyl piperidin-4-ylcarbamate | 1.57 mmol, 314 mg | N1CCC(CC1)NC(OC(C)(C)C)=O | C10H20N2O2
reactant | 2-(di-t-butylphosphino)biphenyl | 0.19 mmol, 56 mg | C(C)(C)(C)P(C1=C(C=CC=C1)C1=CC=CC=C1)C(C)(C)C | C20H27P
reactant | NaOtBu | 4.4 mmol, 423 mg | CC(C)(C)[O-].[Na+]
reactant | HCl | 1 M | Cl | ClH
catalyst | Pd2(dba)3 | 0.05 mmol, 43 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
solvent | H2O | 50 mL | O | H2O
solvent | toluene | 4 mL | C1(=CC=CC=C1)C | C7H8
product | tert-butyl-1-(4-(N-thiazol-2-ylsulfamoyl)phenyl)piperidin-4-ylcarbamate | 520 mg, 76% | C(C)(C)(C)OC(NC1CCN(CC1)C1=CC=C(C=C1)S(NC=1SC=CN1)(=O)=O)=O | C19H26N4O4S2
